US07368578B2
To a mixture of 3-[(4-{[2-(2-furyl)-5-methyl-1,3-oxazol-4-yl]methoxy}-3-methoxybenzyl)oxy]-1-phenyl-1H-pyrazole-4-carbaldehyde (0.80 g), ethyl diethylphosphonoacetate (0.40 g) and N,N-dimethylformamide (20 mL) was added sodium hydride (60% in oil, 0.080 g) under ice-cooling. The mixture was stirred at room temperature for 3 hrs. The reaction mixture was poured into ice water and the precipitated solid was collected by filtration to give ethyl (2E)-3-{3-[(4-{[2-(2-furyl)-5-methyl-1,3-oxazol-4-yl]methoxy}-3-methoxybenzyl)oxy]-1-phenyl-1H-pyrazol-4-yl}-2-propenoate as pale-brown crystals (0.85 g, yield 96%). Recrystallization from ethyl acetate-hexane gave pale-yellow prism crystals. melting point: 177-178° C.

reactant | 3-[(4-{[2-(2-furyl)-5-methyl-1,3-oxazol-4-yl]methoxy}-3-methoxybenzyl)oxy]-1-phenyl-1H-pyrazole-4-carbaldehyde | 0.80 g | O1C(=CC=C1)C=1OC(=C(N1)COC1=C(C=C(COC2=NN(C=C2C=O)C2=CC=CC=C2)C=C1)OC)C | C27H23N3O6
reactant | ethyl diethylphosphonoacetate | 0.40 g | C(C)OP(=O)(OCC)CC(=O)OCC | C8H17O5P
reactant | sodium hydride | 0.080 g | [H-].[Na+]
solvent | N,N-dimethylformamide | 20 mL | CN(C=O)C | C3H7NO
product | ethyl (2E)-3-{3-[(4-{[2-(2-furyl)-5-methyl-1,3-oxazol-4-yl]methoxy}-3-methoxybenzyl)oxy]-1-phenyl-1H-pyrazol-4-yl}-2-propenoate | 0.85 g, yield 96% | O1C(=CC=C1)C=1OC(=C(N1)COC1=C(C=C(COC2=NN(C=C2/C=C/C(=O)OCC)C2=CC=CC=C2)C=C1)OC)C | C31H29N3O7
